US06110939
Isatoic anhydride (0.49 g) was added to a mixture of (±)-trans-1-(2-ethoxyethyl)-N-[2-(phenylmethyl)-4-piperidinyl]-1H-benzimidazol-2-amine (1.14 g) in CH2Cl2 (150 ml), the mixture was stirred for 3 hours and then refluxed for 3 hours. The solvent was evaporated, 2-propanol (100 ml) was added to the residue and the mixture was refluxed for 18 hours. Isatoic anhydride (0.2 g) was added again and the mixture was refluxed for 4 hours. The solvent was evaporated and the residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /CH3OH 95/5). The pure fractions were collected and evaporated. The residue was crystallized from DIPE, yielding 0.5 g (33.4%) of (±)-trans-1-[2-aminobenzoyl]-4-[[1-(2-ethoxyethyl)-1H-benzimidazol-2-yl]amino]-2-(phenylmethyl)piperidine (comp 123; mp. 197.4° C.).

reactant | Isatoic anhydride | 0.49 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | (±)-trans-1-(2-ethoxyethyl)-N-[2-(phenylmethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | 1.14 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N[C@H]2C[C@@H](NCC2)CC2=CC=CC=C2 | C23H30N4O
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | (±)-trans-1-[2-aminobenzoyl]-4-[[1-(2-ethoxyethyl)-1H-benzimidazol-2-yl]amino]-2-(phenylmethyl)piperidine | 0.5 g, 33.4% | NC1=C(C(=O)N2[C@H](C[C@@H](CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)CC3=CC=CC=C3)C=CC=C1 | C30H35N5O2
